US09450195B2
Synthesis of 5-(4-chloro-2,6-dimethylphenyl)-2-(2,4-difluorophenyl)pyridine
One 100 mL round-bottomed flask was charged with 5-bromo-2-(2,4-difluorophenyl)pyridine (0.5 g, 1.851 mmol), 2-(4-chloro-2,6-dimethylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.730 g, 2.74 mmol), dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-3-yl)phosphine (0.021 g, 0.044 mmol), diacetoxypalladium (8.31 mg, 0.037 mmol), and butanol (Volume: 6 ml) to give a yellow suspension. The reaction mixture was then stirred for 15 minutes at room temperature. Lithium hydroxide (0.075 g, 3.15 mmol) was added into reaction mixture and then heated to 80° C. for 1 hour. The reaction mixture was then diluted with deionized water and extracted by ethyl acetate. The organic portion was combined and subjected to column chromatography (SiO2 gel, 5% EtOAc in heptane) to yield the desired compound, 5-(4-chloro-2,6-dimethylphenyl)-2-(2,4-difluorophenyl)pyridine (0.525 g, 86%).

reactant | 5-bromo-2-(2,4-difluorophenyl)pyridine | 1.851 mmol, 0.5 g | BrC=1C=CC(=NC1)C1=C(C=C(C=C1)F)F | C11H6BrF2N
reactant | 2-(4-chloro-2,6-dimethylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.74 mmol, 0.730 g | ClC1=CC(=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)C | C14H20BClO2
reactant | butanol | 6 ml | C(CCC)O | C4H10O
reactant | Lithium hydroxide | 3.15 mmol, 0.075 g | [OH-].[Li+]
solvent | water | O | H2O
catalyst | diacetoxypalladium | 0.037 mmol, 8.31 mg | C(C)(=O)O[Pd]OC(C)=O
catalyst | dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-3-yl)phosphine | 0.044 mmol, 0.021 g | C1(CCCCC1)P(C=1C=C(C=CC1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 5-(4-chloro-2,6-dimethylphenyl)-2-(2,4-difluorophenyl)pyridine | 0.525 g, 86% | ClC1=CC(=C(C(=C1)C)C=1C=CC(=NC1)C1=C(C=C(C=C1)F)F)C | C19H14ClF2N
